US08304546B2
A 5N aqueous sodium hydroxide solution (10 ml) was added to an ethanol solution (30 ml) of ethyl[3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]acetate (700 mg, 1.55 mmol) and heated for 2 hours under reflux. The mixture was cooled to room temperature and concentrated under reduced pressure. While ice-cooling the concentrate, water and concentrated hydrochloric acid were added to the residue to make it acidic. Subsequently, the formed insoluble matter was separated and dried, giving a yellow powder of [3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]acetic acid (580 mg, yield: 88%).

reactant | sodium hydroxide | 5N, 10 ml | [OH-].[Na+]
reactant | ethyl[3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]acetate | 1.55 mmol, 700 mg | C(C)OC(CN1C=C(C(C2=C3OCCCC3=CC(=C12)OCCC)=O)C1=CC=C(C=C1)OC)=O | C26H29NO6
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | [3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]acetic acid | 580 mg, yield: 88% | COC1=CC=C(C=C1)C1=CN(C2=C(C=C3CCCOC3=C2C1=O)OCCC)CC(=O)O | C24H25NO6
